US05641788
According to the same manner as that described in Reference Example 6, 2-amino-3',4',4,5-tetramethoxybenzophenone hydrochloride was reacted with 6-methyl-2,4-heptanedione to give 4-(3,4-dimethoxyphenyl)-3-isovaleryl-6,7-dimethoxy-2-methylquinoline. This compound was recrystallized from ethyl acetate-hexane to give colorless prisms. mp. 135°-137° C.

reactant | 2-amino-3',4',4,5-tetramethoxybenzophenone hydrochloride | Cl.NC1=C(C(=O)C2=CC(=C(C=C2)OC)OC)C=C(C(=C1)OC)OC
reactant | 6-methyl-2,4-heptanedione | CC(CC(CC(C)=O)=O)C | C8H14O2
product | 4-(3,4-dimethoxyphenyl)-3-isovaleryl-6,7-dimethoxy-2-methylquinoline | COC=1C=C(C=CC1OC)C1=C(C(=NC2=CC(=C(C=C12)OC)OC)C)C(CC(C)C)=O | C25H29NO5
